US03948931
80 ml of isopropanol is added to 120 ml of a 20% solution of dimethylamine in dioxane. After this has cooled to 0°, additions are made, with stirring, of 3.7 g (0.075 mole) of sodium cyanide and, after 5 minutes, of a solution of 4.8 g (0.015 mole) of 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde [see Example 1 a)] in 50 ml of dioxane/isopropanol (1:1), as well as of 13 g of manganese dioxide. After 10 minutes, a further addition is made of 13 g of manganese dioxide (total 0.3 mole), and the mixture subsequently stirred for 4 hours at 0°. After the addition of methylene chloride, the reaction mixture is filtered and the filtrate concentrated by evaporation. Crystallisation of the residue from ethyl acetate/petroleum ether yields N,N-dimethyl-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxamide, M.P. 180°-181° C.

reactant | isopropanol | 80 ml | C(C)(C)O | C3H8O
reactant | dimethylamine | CNC | C2H7N
reactant | sodium cyanide | 0.075 mole, 3.7 g | [C-]#N.[Na+]
reactant | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde | 0.015 mole, 4.8 g | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C=O | C17H11ClN4O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane isopropanol | 50 ml | O1CCOCC1.C(C)(C)O
catalyst | manganese dioxide | 13 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 0.3 mole, 13 g | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxamide | CN(C(=O)C1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)C | C19H16ClN5O
